Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
tramadol
 
Attending: ___.
 
Chief Complaint:
fall with rib fractures found at Outside hopsital
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year old man with a history of AVR and
Afib (on pradaxa), CAD s/p CABG x3 who presented to ___ after an unwitnessed fall (no headstrike, no LOC) and
was found to have multiple rib fractures. 

Mr. ___ was in his usual state of health when he was putting
away laundry on ___ night and slipped and fell,
landing on his left back/flank. He cannot recall a particular
reason for falling and attributes his fall to his left knee
"giving out." He notes that he often falls at home, and that his
left knee in particular is prone to giving out. He did not lose
consciousness and has full recollection of the entire event. He
was not confused afterwards. He did have pain in the left flank
immediately following the incident, but did not seek immediate
medical treatment. 

On ___, the patient participated in physical therapy
and believes that this exacerbated his pain, which worsened over
the course of that day and prompted him to seek medical 
attention
at ___. At ___, a CT chest revealed minimally
displaced left posterior ___ and 10th rib fractures as well as a
mildly displaced left posterior 11th rib fracture. He was then
transferred to ___. 

Mr. ___ endorses ___ months of intermittent double vision
with no clear trigger. He denies recent fevers, chills, night
sweats, unintentional weight loss, dizziness, vertigo, headache,
chest pain and shortness of breath. 
 
Past Medical History:
-Coronary artery disease (s/p CABG x3)
-Hypertension
-Hyperlipidemia
-Atrial fibrillation
-Psoriatic arthritis

-Aortic valve replacement (___), patient believes it is porcine
-Laparoscopic appendectomy (pt unsure of date)
 
Social History:
___
Family History:
-mother w/gastric cancer
 
Physical Exam:
Vitals: Temp 98.0 HR 50 BP 152/93 RR 16 O2 90% 3L NC
GEN: A&O to person, place, and date. 
NEUR: cranial nerves ___ intact. Upper and lower extremity
strength grossly intact. Sensation to light touch intact in
bilateral upper & lower extremities. 
HEENT: Pupils are equal and round, reactive to light 5 to 3 mm
bilaterally. No scleral icterus, mucus membranes moist. No
tenderness to palpation in periorbital region or c-spine. 
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R. Chest rises and falls
symmetrically; no paradoxical movements of chest wall. Chest 
wall
is tender to palpation along posterior surface of inferior left
ribs but is otherwise non-tender.
ABD: Protuberant. Nondistended, nontender, no rebound or
guarding. No palpable masses.
Ext: 1+ edema on bilateral feet. Dorsalis pedis pulses
appreciated bilaterally. ___ and ___ perfused. No
tenderness to palpation on UE or ___. 
Derm: 2 large, violaceous plaques noted on left flank. 
 
Pertinent Results:
___ 01:36AM BLOOD WBC-6.9 RBC-5.11 Hgb-13.5* Hct-43.4 
MCV-85 MCH-26.4 MCHC-31.1* RDW-16.2* RDWSD-50.1* Plt ___
___ 04:26AM BLOOD WBC-8.6 RBC-5.33 Hgb-14.3 Hct-45.4 MCV-85 
MCH-26.8 MCHC-31.5* RDW-16.6* RDWSD-50.5* Plt ___
___ 04:26AM BLOOD Neuts-69.4 Lymphs-15.4* Monos-12.6 
Eos-1.2 Baso-0.9 Im ___ AbsNeut-5.93 AbsLymp-1.32 
AbsMono-1.08* AbsEos-0.10 AbsBaso-0.08
___ 04:26AM BLOOD ___ PTT-26.6 ___
___ 06:20AM BLOOD Glucose-104* UreaN-26* Creat-1.2 Na-141 
K-4.4 Cl-98 HCO3-31 AnGap-12
___ 04:26AM BLOOD Glucose-94 UreaN-29* Creat-1.3* Na-141 
K-5.5* Cl-99 HCO3-26 AnGap-16
___ 06:20AM BLOOD Calcium-9.0 Phos-3.1 Mg-2.2
___ 04:26AM BLOOD Calcium-9.4 Phos-4.1 Mg-2.2
___ 06:44AM BLOOD K-4.8
 
Brief Hospital Course:
The patient presented to Emergency Department on ___ from 
outside hospital after a fall with rib fractures. Patient was 
evaluated by upon arrival to ED. He was found to have Left 
___ rib fractures on imaging and he was admitted for pain 
control and physical therapy evaluation. Home medication was 
continued throughout hospitalization. 

Neuro: The patient was alert and oriented throughout 
hospitalization; pain was initially managed with a IV morphine 
and acetaminophen and then transitioned to oral tylenol, 
oxycodone and lidocaine patch. 

CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.

Pulmonary: No pneumothroax. The patient remained stable from a 
pulmonary standpoint; vital signs were routinely monitored. Good 
pulmonary toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. 

GI/GU/FEN: After ED evaluation, the diet was advanced 
sequentially to a Regular diet, which was well tolerated. 
Patient's intake and output were closely monitored

ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.

HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.

Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.

Physical therapy was seen. Roller walker was prescribed and home 
dispo was recommended.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Citalopram 40 mg PO DAILY 
2. Dabigatran Etexilate 150 mg PO BID 
3. Digoxin 0.25 mg PO DAILY 
4. Lisinopril 10 mg PO DAILY 
5. Metoprolol Tartrate 50 mg PO BID 
6. Pantoprazole 40 mg PO Q24H 
7. Torsemide 20 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H  
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*14 Capsule Refills:*0 
3.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate Duration: 4 Days 
As second line pain med if Tylenol alleviate pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*24 Tablet Refills:*0 
4.  Senna 8.6 mg PO BID:PRN constipation  
5.  Citalopram 40 mg PO DAILY  
6.  Dabigatran Etexilate 150 mg PO BID  
7.  Digoxin 0.25 mg PO DAILY  
8.  Lisinopril 10 mg PO DAILY  
9.  Metoprolol Tartrate 50 mg PO BID  
10.  Pantoprazole 40 mg PO Q24H  
11.  Torsemide 20 mg PO DAILY  
12.Rolling Walker
Rolling Walker
Dx: Rib fractures, requires assistance with mobility, difficulty 
with balance 
Px: good
___: 13 months

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Left ___ to 11st rib fractures

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,
You were admitted to ___ after 
a fall and was found to have left ___ rib fractures. You 
were treated conservatively as no surgery was indicated. You 
worked with the physical therapy team several times while you 
were here. You are recovering well and are now ready for 
discharge. Please follow the instructions below to continue your 
recovery:

Rib Fractures:

* Your injury Left ___ to 11th rib fractures which can cause 
severe pain and subsequently cause you to take shallow breaths 
because of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

* Skilled nursing will come to your home for pain medication 
management. 

* Please use the rolling walker as instructed by the physical 
therapy team.

* Physical therapy will come to your home and work with you. 

* Please follow up with your primary care physician for pain and 
let them know that you were hospitalized.

* If you need to seek immediate medical attention, please go to 
the emergency department closest to you. Signs that you might 
need to seek medical attention are listed below in this 
document. 

It was a pleasure taking care of you,
Your ___ Team

 
Followup Instructions:
___